US07994196B2
A 5-chlorothienyl magnesium bromide-tetrahydrofuran solution (Aldrich Co., 0.5 M, 22 ml) was cooled to 0° C., and 1-(tert-butoxycarbonyl)-4-piperidone (Aldrich Co. (hereafter the same), 2.0 g) was dissolved in tetrahydrofuran (10 ml) and added thereto. The mixture was heated under reflux for 8 hr. After completion of the reaction, the mixture was cooled to 0° C. A saturated aqueous ammonium chloride solution was added, and a solid was filtered off. The filtrate was extracted with diethyl ether. The organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent:hexane-ethyl acetate (5:1)). The intermediate was dissolved in ethyl acetate, and a 4N hydrochloric acid-ethyl acetate solution (3 ml) was added. The mixture was stirred at room temperature for 3 hr. After completion of the reaction, the solvent was evaporated under reduced pressure. The precipitated solid was collected by filtration to give 4-(5-chloro-2-thienyl)-1,2,3,6-tetrahydropyridine hydrochloride (637 mg, yield 23%).

reactant | 5-chlorothienyl magnesium bromide tetrahydrofuran | 0.5 M, 22 ml | ClC1=CC=C(S1)[Mg]Br.O1CCCC1
reactant | 1-(tert-butoxycarbonyl)-4-piperidone | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(5-chloro-2-thienyl)-1,2,3,6-tetrahydropyridine hydrochloride | 637 mg, yield 23% | Cl.ClC1=CC=C(S1)C=1CCNCC1 | InChI=1S/C9H10ClNS.ClH/c10-9-2-1-8(12-9)7-3-5-11-6-4-7;/h1-3,11H,4-6H2;1H
